US07435823B2
Step (a) Preparation of 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-amine
To a solution of 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-yl trifluoromethanesulfonate (0.825 g, 1.72 mmol) in THF (30 mL), was added Pd(OAc)2 (0.039, 0.17 mmol), followed by BINAP (0.1187 g, 0.19 mmol) and Cs2CO3 (0.784 g, 2.41 mmol). Diphenylmethanimine was added and the mixture was stirred at 65° C. for 16 h. The reaction was cooled to RT, treated with 1N HCl (12 mL) and stirred for 4 h. The mixture was diluted with water and extracted with EtOAc 3×. The aqueous extract was treated with NH4OH until pH=12. This was extracted with EtOAc 3×. The combined organic layers were washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The crude material was taken on directly without purification. MS (ESI, pos. ion) m/z: 347.4 (M+1).

reactant | 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-yl trifluoromethanesulfonate | 1.72 mmol, 0.825 g | FC(S(=O)(=O)OC1=CC2=CC(=CC=C2C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)(F)F | C22H16F3NO6S
reactant | BINAP | 0.19 mmol, 0.1187 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 2.41 mmol, 0.784 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Diphenylmethanimine | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
reactant | HCl | 1N, 12 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.17 mmol | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-amine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C=CC(=CC2=C1)N | C21H18N2O3
